US07951815B2
A solution of 1-(2-ethylbutyryl)-piperidin-4-one (1.6 g, 8.1 mmol), (S)-methioninamide hydrochloride (1.5 g, 8.1 mmol), and triethylamine (820 mg, 8.1 mmol) in EtOH (66 mL) was heated under reflux over a period of 16 h. Following removal of the solvent, water (50 mL) and CH2Cl2 (50 mL) were added to the residue and the mixture was basified with concentrated sodium hydroxide solution. The aqueous phase was extracted with CH2Cl2 (3×20 mL) and the combined organic phases were dried over Na2SO4. Following removal of the solvent and vacuum drying, there was obtained the product 8-(2-ethylbutyryl)-3-(S)-(2-methylsulfanylethyl)-1,4,8-triazaspiro[4,5-]-decan-2-one in a yield of 1.8 g (69%).

reactant | 1-(2-ethylbutyryl)-piperidin-4-one | 8.1 mmol, 1.6 g | C(C)C(C(=O)N1CCC(CC1)=O)CC | C11H19NO2
reactant | (S)-methioninamide hydrochloride | 8.1 mmol, 1.5 g | Cl.N[C@@H](CCSC)C(=O)N
reactant | triethylamine | 8.1 mmol, 820 mg | C(C)N(CC)CC | C6H15N
solvent | EtOH | 66 mL | CCO | C2H6O
product | 8-(2-ethylbutyryl)-3-(S)-(2-methylsulfanylethyl)-1,4,8-triazaspiro[4,5-]-decan-2-one | C(C)C(C(=O)N1CCC2(N[C@H](C(N2)=O)CCSC)CC1)CC | C16H29N3O2S
